US04711963
90 g of p-toluenesulfonic acid was added to 50 g of 1-(3-chlorophenyl)-3-methyl-2-pyrazolin-5-one [Chemical Abstracts Registry Number (90-31-3)], and the resulting mixture was stirred on an oil bath at 150° C., for 2.5 hours. The reaction mixture was allowed to cool down to 100° C. or less. A solution prepared from 25 g of sodium hydroxide and 150 ml of water was added dropwise thereto. After adding thereto 350 ml of water, the mixture was extracted with chloroform. The chloroform phase was separated and then dried over anhydrous potassium carbonate. After insoluble materials were filtered off, the filtrate was concentrated to dryness to obtain 28.1 g of 1-(3-chlorophenyl)-2,3-dimethyl-3-pyrazolin-5-one. When recrystallization was carried out from ethyl acetate, crystals having a melting point of 98° to 100° C. were obtained.

reactant | p-toluenesulfonic acid | 90 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1-(3-chlorophenyl)-3-methyl-2-pyrazolin-5-one | 50 g | ClC=1C=C(C=CC1)N1N=C(CC1=O)C | C10H9ClN2O
reactant | sodium hydroxide | 25 g | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 1-(3-chlorophenyl)-2,3-dimethyl-3-pyrazolin-5-one | 28.1 g | ClC=1C=C(C=CC1)N1N(C(=CC1=O)C)C | C11H11ClN2O
